US07807708B2
g of ethyl 3″-tert-butyl-4″-diethylamino-4′-trifluoromethanesulfonyloxy[1,1′;3′,1″]terphenyl-4-carboxylate (2 mmol) are dissolved at room temperature in 23 mL of dimethylformamide, and 250 mg of LiCl (6 mmol) and 0.74 mL of allyltributyltin (2.4 mmol) are then added. The reaction medium is heated and, at 40° C., 70 mg of dichlorobis(triphenylphosphine)palladium (0.1 mmol) are added and the reaction medium brought to 120° C. and stirred for 20 minutes. The reaction is stopped by adding 30 mL of water and then extracted with 30 mL of ethyl acetate. The organic phases are washed with 80 mL of water and then dried over magnesium sulfate. The solvents are evaporated off and the residue is then purified by chromatography on silica gel (eluent: heptane). 940 mg of ethyl 3″-tert-butyl-4″-diethylamino-4′-vinyl[1,1′;3′,1″]terphenyl-4-carboxylate are obtained (yield=100%).

reactant | ethyl 3″-tert-butyl-4″-diethylamino-4′-trifluoromethanesulfonyloxy[1,1′;3′,1″]terphenyl-4-carboxylate | 2 mmol | C(C)(C)(C)C=1C=C(C=CC1N(CC)CC)C=1C=C(C=CC1OS(=O)(=O)C(F)(F)F)C1=CC=C(C=C1)C(=O)OCC | C30H34F3NO5S
reactant | LiCl | 6 mmol, 250 mg | [Li+].[Cl-]
reactant | allyltributyltin | 2.4 mmol, 0.74 mL | C(C=C)[Sn](CCCC)(CCCC)CCCC
reactant | water | 30 mL | O | H2O
solvent | dimethylformamide | 23 mL | CN(C=O)C | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium | 0.1 mmol, 70 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | ethyl 3″-tert-butyl-4″-diethylamino-4′-vinyl[1,1′;3′,1″]terphenyl-4-carboxylate | 940 mg, yield=100% | C(C)(C)(C)C=1C=C(C=CC1N(CC)CC)C=1C=C(C=CC1C=C)C1=CC=C(C=C1)C(=O)OCC | C31H37NO2
